US08455483B2
a) 2-Chloro-5-(cyanomethyl)benzoic acid
A solution of 5-(bromomethyl)-2-chlorobenzoic acid [WO 2001044170] (1.75 g) in DMF (20 mL) was treated with a solution of potassium cyanide (0.91 g) in water (7 mL) and the resulting solution was stirred at room temperature over 3 days. The mixture was diluted with water and extracted twice with ethyl acetate. The organic phases were discarded, whilst the aqueous phase was carefully acidified with concentrated hydrochloric acid (5 mL), venting any liberated HCN through bleach solution via a stream of nitrogen. After being stirred for 20 minutes, the aqueous phase was extracted twice more with ethyl acetate. The combined organic phases were washed three times with water, once with brine, then dried over anhydrous magnesium sulphate and concentrated in vacuo to afford the crude subtitled compound as a brown solid. Yield 1.25 g.

reactant | 5-(bromomethyl)-2-chlorobenzoic acid | 1.75 g | BrCC=1C=CC(=C(C(=O)O)C1)Cl | C8H6BrClO2
reactant | potassium cyanide | 0.91 g | [C-]#N.[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 7 mL | O | H2O
product | 2-Chloro-5-(cyanomethyl)benzoic acid | ClC1=C(C(=O)O)C=C(C=C1)CC#N | C9H6ClNO2
